US06479486B2
(1R*,2R*,5S*,6RS)-8-Benzyl-6-(tert-butoxycarbonyl)-1-phenylspiro[8-azabicyclo[3.2.1]octane-2,2′(5′H)-furan]
The mixture of (1R*,2S*,5S*,6RS)-8-benzyl-6-(tert-butoxycarbonyl)-2-[(Z)-3-hydroxypropenyl]-1-phenyl-8-azabicylco[3.2.1]octan-2-ol (Description 26; a 3:1 mixture of C6 epimers, 4.0 g, 8.9 mmol), diethyl azodicarboxylate (1.8 ml, 11.4 mmol), triphenylphosphine (3.6 g, 13.7 mmol), tetrahydrofuran (30 ml) was stirred at room temperature for 15 minutes. The mixture was treated with water (0.1 ml) and concentrated in vacuo. The residue was treated with diethyl ether followed by iso-hexane. The solid was filtered off and the filtrate was concentrated and purified by chromatography on silica gel (iso-hexane:diethyl ether 0-20%) to give the title compound (3.1 g, 81%) as a 3:1 mixture of C6 epimers.

reactant | (1R*,2S*,5S*,6RS)-8-benzyl-6-(tert-butoxycarbonyl)-2-[(Z)-3-hydroxypropenyl]-1-phenyl-8-azabicylco[3.2.1]octan-2-ol | C(C1=CC=CC=C1)N1[C@@]2([C@@](CC[C@H]1C(C2)C(=O)OC(C)(C)C)(O)\C=C/CO)C2=CC=CC=C2 | C28H35NO4
reactant | diethyl azodicarboxylate | 11.4 mmol, 1.8 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 13.7 mmol, 3.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 0.1 ml | O | H2O
product | (1R*,2R*,5S*,6RS)-8-Benzyl-6-(tert-butoxycarbonyl)-1-phenylspiro[8-azabicyclo[3.2.1]octane-2,2′(5′H)-furan] | 3.1 g, 81% | C(C1=CC=CC=C1)N1[C@]2(CC([C@@H]1CC[C@]21OCC=C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C28H33NO3
